US04533656
A solution of dicyclohexylcarbodiimide (103 g.) in methylene chloride (250 ml.) was added to a stirred solution of N-t-butoxycarbonyl-L-proline (101 g.), ethanesulphonamide (54.5 g.) and 4-dimethylaminopyridine (61 g.) in methylene chloride (2500 ml.) which was cooled to 0° C., and the mixture was allowed to warm up to laboratory temperature, stirred at that temperature for 4 days and then filtered. The filtrate was evaporated to dryness and the residue was partitioned between diethyl ether (1000 ml.) and saturated sodium bicarbonate solution (1000 ml.). The aqueous solution was separated, neutralised with concentrated aqueous hydrochloric acid, acidified with citric acid and extracted with ethyl acetate. The extract was dried and evaporated to dryness, the residue was stirred with diethyl ether and the mixture was filtered. There was thus obtained as solid product N-t-butoxycarbonyl-L-proline ethanesulphonamide, m.p. 170°-172° C.

reactant | dicyclohexylcarbodiimide | 103 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-t-butoxycarbonyl-L-proline | 101 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | ethanesulphonamide | 54.5 g | C(C)S(=O)(=O)N | C2H7NO2S
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 2500 ml | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl-L-proline ethanesulphonamide | C(C)S(=O)(=O)N.C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | InChI=1S/C10H17NO4.C2H7NO2S/c1-10(2,3)15-9(14)11-6-4-5-7(11)8(12)13;1-2-6(3,4)5/h7H,4-6H2,1-3H3,(H,12,13);2H2,1H3,(H2,3,4,5)/t7-;/m0./s1
